Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin
 
Attending: ___.
 
Chief Complaint:
hypotension, weakness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ woman with history of rheumatoid
arthritis on prednisone, MRSA bacteremia complicated by
prosthetic joint infection, C. difficile colitis, drug rash,
referred from infectious disease clinic with concern for
dehydration.

Per review of the chart, the patient was recently admitted to 
the
hospital from ___ for left hand pain and right knee pain,
and found to have MRSA bacteremia and prosthetic joint 
infection.
She underwent left hand debridement and right knee debridement
and liner replacement. Infectious disease was consulted, and the
patient was started on IV vancomycin and PO rifampin for planned
6-week course. Regarding her rheumatoid arthritis, her home
prednisone was continued and her methotrexate and leucovorin 
were
held, with plan to re-initiate in a few weeks. The patient was
discharged to rehab on ___.

She was seen in ___ clinic on ___, and left hand 
incision
was healed, and right knee incision was well-approximate without
erythema or drainage. He was also seen in ___ clinic on ___ and
was doing well at that time; vancomycin and rifampin were
continued at that time.

On ___, she developed diarrhea; C. diff toxin was positive on
___. She was started on oral vancomycin on ___. The patient
reports that this did not help her diarrhea, and she continued 
to
have multiple loose stools per day. She denies any fevers,
chills, abdominal pain, nausea, vomiting at that time.

On ___, she developed a diffuse macular rash. On ___, oral
vancomycin was stopped and oral Flagyl was started. She was also
prescribed a hydrocortisone cream and Benadryl. On ___, her
rifampin was also stopped. She was prescribed a higher dose of
prednisone (20 mg), but she declined to take this so she has 
been
maintained at 10 mg. The patient reports that her diarrhea has
improved somewhat, but she has had nausea and vomiting. She has
felt extremely fatigued. She denies any fevers or chills. She
denies any pain. No pruritus as present.

She returned to Infectious Disease clinic on ___ for routine
follow up. On exam, her blood pressure was noted to be 88/60.
Skin exam demonstrated generalized erythematous macular rash on
face; trunk; extremities. This was suspected to be a drug
hypersensitivity reaction, likely due to IV vancomycin; the
patient was started on daptomycin instead. Labs were obtained 
and
notable for ___. She was referred to the ED for further care.

In the ED, vitals: 97.5 82 96/55 24 100% RA 
Exam notable for: Faint rash appreciated, erythematous, macular.
Left wrist and right knee without tenderness to palpation, no
evidence of wound infection.
Labs notable for: WBC 9.8 (0.5 eos), Hb 10.9, BUN/Cr ___, AST
39, ALT 23, CRP 57
Imaging: CXR with malpositioned PICC (in RIJ)
Patient given: 1L NS, daptomycin 420 mg IV

On arrival to the floor, the patient reports that she feels
fatigued. She denies lightheadedness or dizziness. No fevers or
chills. No pain. No pruritus. No other complaints.

The IV team attempted to reposition her PICC, however, they were
not successful.
 
Past Medical History:
- Right knee prosthetic joint infection
- MRSA bacteremia
- C. diff infection
- Advanced Rheumatoid Arthritis s/p bilateral hand joint 
replacements and bilateral total knee replacement 
- GERD
- Osteoporosis
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
VITALS: 99.3 107/62 106 24 97 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs; right knee incision
well-apposed and c/d/i
SKIN: Diffuse, erythrodermic macular rash on extremities and
torso
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect
 
Pertinent Results:
___ 10:01AM BLOOD WBC-13.2* RBC-4.06 Hgb-12.7 Hct-38.2 
MCV-94 MCH-31.3 MCHC-33.2 RDW-14.0 RDWSD-48.4* Plt ___
___ 03:30AM BLOOD WBC-11.6* RBC-3.08* Hgb-9.6* Hct-29.0* 
MCV-94 MCH-31.2 MCHC-33.1 RDW-14.5 RDWSD-49.9* Plt ___
___ 07:52PM BLOOD Glucose-123* UreaN-16 Creat-1.6* Na-137 
K-3.7 Cl-107 HCO3-19* AnGap-11
___ 03:30AM BLOOD Glucose-128* UreaN-10 Creat-1.4* Na-141 
K-3.3* Cl-109* HCO3-20* AnGap-12
___ 03:30AM BLOOD ALT-15 AST-20 AlkPhos-44 TotBili-0.4
___ 07:08AM BLOOD Calcium-7.3* Phos-2.6* Mg-1.8
___:01AM BLOOD CRP-57.2*
___ 12:32PM BLOOD Lactate-2.0
___ 07:52PM BLOOD Lactate-1.9

Blood Cx were negative for growth

CXR Pa/lat:
Cardiomediastinal silhouette stable compared to prior.  Lungs 
mildly
hyperventilated with flattened hemidiaphragms.  Trachea is 
patent, midline. 
There appears to be increased pulmonary vascular congestion with 
trace pleural
effusion on the left.  There is some evidence of fibrosis the 
bases which may
be consistent with chronic lung disease, vascular congestion, or 
both.  There
is no evidence alveolar opacity or pneumothorax.  There is an 
increased
retrocardiac area of hyperlucency consistent with hiatal hernia. 
 No upper
abdominal or osseous pathology is noted.

No evidence of pneumonia.  Trace pleural effusion on the left.
 
Brief Hospital Course:
___ y/o F with PMHx of RA on prednisone, MRSA bacteremia 
complicated by prosthetic joint infection, C. difficile colitis 
and drug eruption likely ___ Vanc who was referred from 
infectious disease clinic with hypotension and ___.

# Acute kidney injury: 
Unclear if this is still pre-renal vs mild AIN related to drug 
eruption.  Discontinued vanc and switched to dapto. Received 
boluses of IVF but creatinine stabilized at 1.4. Pt was care 
connected with an outpatient nephrologist on discharge.

# Drug Eruption/Rash: Patient with diffuse, erythrodermic rash 
likely drug hypersensitivity reaction ___ vancomycin, which was 
discontinued. Patient is not pruritic and appears to be 
improving. LFTs were not elevated so DRESS was deemed less 
likely.

# Recent Prosthetic joint infection
# MRSA bacteremia: 
Patient with recent admission for MRSA bacteremia and prosthetic 
joint infection of right knee, discharged on 
vancomycin/rifampin, both now discontinued in
setting of suspected drug rash above. Midline in place for 
Daptomycin course (through ___. OPAT recs in place, with 
safety lab recs

# C. diff infection: much improved, no diarrhea in house and pt 
was continued on oral metronidazole (anticipated course through 
___

CHRONIC/STABLE PROBLEMS:
# Rheumatoid arthritis: Continue prednisone 10 mg daily
- Methotrexate/leucovirin held at last discharge

# GERD: Continue omeprazole

# Palpitations/SVT: BP running on low side on admission
- Held metoprolol in setting of hypotension, but restarted on 
day of discharge.

TRANSITIONAL ISSUES
[ ] Midline in place for Daptomycin course (through ___
[ ] pt was continued on oral metronidazole (anticipated course 
through ___
[ ] Recheck creatinine at rehab, encourage fluid intake

>30 min spent on d/c planning including face to face time. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. PredniSONE 10 mg PO DAILY 
3. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
4. Metoprolol Succinate XL 12.5 mg PO DAILY 
5. Celecoxib 200 mg oral BID 
6. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
7. MetroNIDAZOLE 500 mg PO TID 
8. DiphenhydrAMINE 12.5 mg PO Q6H:PRN Itch 
9. Bisacodyl 10 mg PR QHS:PRN Constipation - Third Line 
10. Fleet Enema (Saline) ___AILY:PRN Constipation 
11. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Third 
Line 
12. Multivitamins 1 TAB PO DAILY 
13. Ranitidine 150 mg PO BID 
14. Cetirizine 10 mg PO DAILY 
15. Vancomycin 1000 mg IV Q 12H 

 
Discharge Medications:
1. Omeprazole 20 mg PO DAILY 
2. PredniSONE 10 mg PO DAILY 
3. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
4. Metoprolol Succinate XL 12.5 mg PO DAILY 
5. Celecoxib 200 mg oral BID 
6. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
7. MetroNIDAZOLE 500 mg PO TID 
8. DiphenhydrAMINE 12.5 mg PO Q6H:PRN Itch 
9. Bisacodyl 10 mg PR QHS:PRN Constipation - Third Line 
10. Fleet Enema (Saline) ___AILY:PRN Constipation 
11. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Third 
Line 
12. Multivitamins 1 TAB PO DAILY 
13. Ranitidine 150 mg PO BID 
14. Cetirizine 10 mg PO DAILY 
15. Daptomycin
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute kidney injury
Drug eruption
Cdiff colitis
Hypotension

 
Discharge Condition:
Stable
 
Discharge Instructions:
You were admitted with low blood pressures, acute kidney injury 
and rash likely secondary to Vancomycin drug reaction as well as 
resolving cdiff colitis.  You have improved with IV fluids and 
switching to Daptomycin in place of Vancomycin

 
Followup Instructions:
___